2112-02-24 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2112-2-23**] 02:09 PM with removal of 7L fluid;
   exudative effusion
   -given 45gm albumin post procedure for borderline BP
   -Renal reccs ALOH while inpatient, d/c on phos lo
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-24**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 96 (91 - 101) bpm
   BP: 82/56(61){78/50(38) - 109/86(80)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
             Total In:
                                                                    455 mL
                                                                    275 mL
   PO:
                                                                    130 mL
             TF:
   IVF:
                                                                     65 mL
                                                                    275 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  9,250 mL
                                                                      0 mL
   Urine:
   NG:
                                                                      0 mL
                                                                      0 mL
   Stool:
   Drains:
                                                                  9,250 mL
   Balance:
                                                                 -8,795 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.31/37/86/21/-6
   PaO2 / FiO2: 86
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   10.4 g/dL
   117 mg/dL
   5.6 mg/dL
   21 mEq/L
   5.4 mEq/L
   114 mg/dL
   95 mEq/L
   129 mEq/L
   32.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2112-2-23**]  11:47 AM
                             [**2112-2-24**]  04:31 AM
   WBC
   8.4
   Hct
   32.0
   Plt
   197
   Cr
   5.6
   TCO2
   20
   Glucose
   117
   Other labs: PT / PTT / INR:16.3/30.7/1.5, ALT / AST:33/105, Alk Phos /
   T Bili:164/1.0, Lactic Acid:2.0 mmol/L, Albumin:2.8 g/dL, LDH:262 IU/L,
   Mg++:2.3 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
 DYSPNEA (SHORTNESS OF BREATH): Likely [**3-5**] combination of metabolic
   acidosis [**3-5**] uremia and chachexia causing decreased respirtory muscle
   strength.  Paracentesis yesterday helped SOB somewhat, but pt still
   requiring high flow facemask.
   -          call [**Hospital3 **] to arrange for high flow FM at home
   -          D/C once home hospice is set up
   -          Continue PRN morphine for resp distress
 ASCITES: removed 7.5 liters yesterday.  SAAG=1.3 suggesting element
   of portal hypertension.  Possible that mass from HCC is causing this
   portal hypertension. Diag tap on admission with no evidence of SBP.
   - continue to monitor for ABD tenderness or signs of possible SBP.
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER): Pt receives home
   hospice.  Oncologist is Dr. [**Last Name (STitle) 123**].
   - no further treatment at this time
 ACIDOSIS, METABOLIC: likely [**3-5**] uremia.  Causing increased resp drive
   with increased RR.  Pt has refused HD.
   - continue morphine as needed for resp symptoms
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): likely due to
   prerenal etiology.  Renal was consulted and pt is not interested in HD.
 HYPOTENSION (NOT SHOCK): Likely [**3-5**] underlying liver disease.  Pt has
   been asymptomatic, and has BP~80s at BL.
   - mange with IVF as needed
 PLEURAL EFFUSION, ACUTE: Likely the result of hepatic hydrothorax.
   After large volume paracentesis some of the fluid may be resorbed.
 LEUKOCYTOSIS: resolved
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER):
   - continue atorvastatin
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-23**] 12:00 PM
   Prophylaxis:
   DVT: P-Boots
   Stress ulcer: not indicated
   VAP:  not indicated
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Home once hospice care is set up.
   ------ Protected Section ------
   Physical Examination
   General Appearance: Thin, cachectic
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), S3
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Absent : Bil bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Nausea with deep
   palpation
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): Person, Place and Time, Movement: Not
   assessed, Tone: Not assessed
   ------ Protected Section Addendum Entered By:[**Name (NI) 125**] [**Name8 (MD) 126**], MD
   on:[**2112-2-24**] 22:18 ------

2112-02-24 11:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, ascites, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had large volume paracentesis yesterday; breathing may be
   better, but patient vague about this. His greatest fear is dyspnea.
   Albumin given after tap. Had episode of hypotension and received normal
   saline bolus with good response. Patient is anuric.
   24 Hour Events:
 PARACENTESIS - At [**2112-2-23**] 02:09 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Insulin
   PPI
   Colace
   Aluminum Hydroxide
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Anuric
   Flowsheet Data as of  [**2112-2-24**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 96 (91 - 101) bpm
   BP: 79/49(56){77/49(38) - 109/88(80)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
             Total In:
                                                                    455 mL
                                                                    576 mL
   PO:
                                                                    130 mL
             TF:
   IVF:
                                                                     65 mL
                                                                    576 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  9,250 mL
                                                                      0 mL
   Urine:
   NG:
                                                                      0 mL
                                                                      0 mL
   Stool:
   Drains:
                                                                  9,250 mL
   Balance:
                                                                 -8,795 mL
                                                                    576 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.31/37/86/21/-6
   PaO2 / FiO2: 143
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, Anxious, No(t) Diaphoretic, Cachectic
   Eyes / Conjunctiva: No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anteriorally and laterally)
   Abdominal: Soft, Non-tender, Distended, No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   197 K/uL
   117 mg/dL
   5.6 mg/dL
   21 mEq/L
   5.4 mEq/L
   114 mg/dL
   95 mEq/L
   129 mEq/L
   32.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2112-2-23**]  11:47 AM
                             [**2112-2-24**]  04:31 AM
   WBC
   8.4
   Hct
   32.0
   Plt
   197
   Cr
   5.6
   TCO2
   20
   Glucose
   117
   Other labs: PT / PTT / INR:16.3/30.7/1.5, ALT / AST:33/105, Alk Phos /
   T Bili:164/1.0, Lactic Acid:2.0 mmol/L, Albumin:2.8 g/dL, LDH:262 IU/L,
   Mg++:2.3 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
 DYSPNEA (SHORTNESS OF BREATH)
 ASCITES
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
 ACIDOSIS, METABOLIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 PLEURAL EFFUSION, ACUTE
 LEUKOCYTOSIS
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
   HYPONATREMIA
   Patient has had paracentesis with large volume removed. Patient
   continues to have dyspnea, probably related to metabolic acidosis and
   genearl muscle weakness and cachexia. Patient is on hospice care at
   home. We discussed ongoing use of morphine for symptom control at home;
   dyspnea at home is his biggest concern.
   Patient is anuric with rising creatinine and potassium, neither of
   which are to be treated given his wishes.
   Blood pressure marginal.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-23**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Discussed with family
   Code status: DNR / DNI
   Disposition :D/C Home
   Total time spent: 25 minutes

2112-02-25 07:16:00 Physician Resident Progress Note
Chief Complaint: 47 yo M with HCC on home hospice came here with
   dyspnea and ascites, SOB partially improved after paracentesis on [**2-24**],
   but with worsening SOB over the last 24 hours.
   24 Hour Events:
   -pt unable to go home because caritas home hospice service was unable
   to provide high flow face mask for supplemental O2 until thursday.
   -At 3AM pt having increasing discomfort and dyspnea.  Mild improvement
   with nebs and high flow mask.  After discussing with pt, placed an IV
   and administered Morphine and Ativan IV.  Pt had significant relief of
   symptoms and was able to sleep.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, Weight loss
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Flowsheet Data as of  [**2112-2-25**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 92 (92 - 98) bpm
   BP: 75/49(55){73/46(50) - 95/59(65)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
                  Total In:
                                                                    720 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                    600 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
                                                                      0 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                    720 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Thin, Cachectic
   Eyes / Conjunctiva: PERRL, Sunken Orbits
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), S3, No(t) S4, No(t) Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   At L base, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Unable to answer
   questions due to dyspnea and fatigue
   Labs / Radiology
   197 K/uL
   10.4 g/dL
   117 mg/dL
   5.6 mg/dL
   21 mEq/L
   5.4 mEq/L
   114 mg/dL
   95 mEq/L
   129 mEq/L
   32.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2112-2-23**]  11:47 AM
                             [**2112-2-24**]  04:31 AM
   WBC
   8.4
   Hct
   32.0
   Plt
   197
   Cr
   5.6
   TCO2
   20
   Glucose
   117
   Other labs: PT / PTT / INR:16.3/30.7/1.5, ALT / AST:33/105, Alk Phos /
   T Bili:164/1.0, Lactic Acid:2.0 mmol/L, Albumin:2.8 g/dL, LDH:262 IU/L,
   Mg++:2.3 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
 DYSPNEA (SHORTNESS OF BREATH): Pt has persistent SOB despite
   paracentesis.  Liekly that metabolic acidosis from uremia is increasing
   his respiratory drive and with his cachexia and muscle wasting his
   diaphram and resp muscles are unable to meet the increased demand to
   blow off CO2 causing increased Dyspnea.
   - Continue O2 by high flow mask while here
   - Spoke to Caritas Home Hospice yesterday, and high flow mask should be
   available today
   - morphine and ativan PRN for comfort
   - nebs prn for dyspnea
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): acute on chronic
   renal failure.  Pt has refused dialysis.  Likely that uremia is
   uderlying some of his dyspnea as described above.
   - continue to manage dyspnea with supplemental O2 and Morphine/ativan
   for comfort
   - continue ALOH
   - d/c with Rx for nephrocaps
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER): Pt has HCC.  Oncologist
   is Dr. [**Last Name (STitle) 123**].  Pt is currently Home with Hospice and pursuing no further
   treatment.
 ACIDOSIS, METABOLIC: Likely [**3-5**] uremia as described above, and is
   driving increased resp drive.
   -manage dyspnea as above
 HYPOTENSION (NOT SHOCK): pt has basline hypotension, from which he is
   asymtomatic.
   -fluid bolus for symtoms
 ASCITES: s/p 7.5 L paracentesis on [**2-23**].  Abd exam today is distended
   with some residual ascites, but not tense and not requiring para at
   this time.
   -tell pt that if he feels he will need another paracentesis he has the
   otion to make an outpatient
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER): pt on
   atorvastatin
   -statin d/ced as unlikey to give pt any benefit
 PLEURAL EFFUSION, ACUTE: likely [**3-5**] hepatic hydrothorax.
   - no intervention indicated at this time
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-25**] 03:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition:D/C Home with hospice

2112-02-25 10:07:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, resp distress, ascites.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with increased dyspnea last night. Given morphine and ativan
   with improvement. O2 sats high 80's to 90's on mask. Oral meds being
   held because of sedated mental status.
   24 Hour Events:
 PARACENTESIS - At [**2112-2-24**] 08:09 AM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Morphine
   Ativan
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-25**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 88 (88 - 98) bpm
   BP: 75/49(55){73/46(50) - 95/59(65)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
                  Total In:
                                                                    720 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                    600 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
                                                                      0 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                    720 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Thin, No(t) Anxious, No(t) Diaphoretic, Sedated/somnolent
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Conjunctiva pale, No(t)
   Sclera edema
   Cardiovascular: (S1: Normal), (S2: Normal), S3, No(t) S4, No(t) Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent
   : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Tactile stimuli, Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   197 K/uL
   117 mg/dL
   5.6 mg/dL
   21 mEq/L
   5.4 mEq/L
   114 mg/dL
   95 mEq/L
   129 mEq/L
   32.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2112-2-23**]  11:47 AM
                             [**2112-2-24**]  04:31 AM
   WBC
   8.4
   Hct
   32.0
   Plt
   197
   Cr
   5.6
   TCO2
   20
   Glucose
   117
   Other labs: PT / PTT / INR:16.3/30.7/1.5, ALT / AST:33/105, Alk Phos /
   T Bili:164/1.0, Lactic Acid:2.0 mmol/L, Albumin:2.8 g/dL, LDH:262 IU/L,
   Mg++:2.3 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
 DYSPNEA (SHORTNESS OF BREATH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   acute on chronic renal failure
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
 ACIDOSIS, METABOLIC
 HYPOTENSION (NOT SHOCK)
 ASCITES
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
 PLEURAL EFFUSION, ACUTE
   Patient to go home with hospice services. Oxygen saturations marginal
   on nasal O2; not an issue given anuria and plans for comfort measures.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-25**] 03:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :D/C Home
   Total time spent: 25 minutes